US06710055B2
a) 4-Methylamino-3-nitrobenzoic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide
To a solution of 24.7 g (0.115 mol) of 4-methylamino-3-nitrobenzoic acid chloride and 22.3 g (0.115 mol) of N-(2-ethoxycarbonylethyl)aniline in 300 mL of tetrahydrofuran, 13.1 g (0.13 mol) of triethylamine were added dropwise in 15 minutes, with stirring, at room temperature. After 2 hours stirring, the solvent was distilled off in a water-jet vacuum and the residue was mixed with 700 mL of water with stirring. The mixture was extracted 3 times with 200 mL of dichloromethane, the organic extract was washed twice with 200 mL of 2N hydrochloric acid and twice with 300 mL of water and dried over sodium sulfate. The solvent was then distilled off and the oily product thus obtained was purified by column chromatography (1 kg silica gel; eluant: petroleum ether/ethyl acetate=2:1). Yield: 35.0 g (82% of theory); Rf value: 0.28 (silica gel; dichloromethane/ethanol=50:1).

reactant | 4-methylamino-3-nitrobenzoic acid chloride | 0.115 mol, 24.7 g | CNC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | N-(2-ethoxycarbonylethyl)aniline | 0.115 mol, 22.3 g | C(C)OC(=O)CCNC1=CC=CC=C1 | C11H15NO2
reactant | triethylamine | 0.13 mol, 13.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-Methylamino-3-nitrobenzoic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide | C1(=CC=CC=C1)N(C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)CCC(=O)OCC | C19H21N3O5
